* bit_register_with_load.cir
* Generated from a PyRTL working block.
* Transistor-level cells are embedded at the end of this file.
* Supported: combinational logic, muxes, arithmetic, comparisons, and registers.
* Registers are positive-edge-triggered and share CLK.
* Suggested plot nodes: V(D), V(LOAD), V(Q), V(CLK)


* 1) POWER SUPPLY

VDD_SOURCE VDD 0 5

* Shared positive-edge clock
VCLK CLK 0 PULSE(0 5 5u 50n 50n 5u 10u)
VINIT INIT 0 PWL(0 5 6u 5 6.05u 0)


* 2) INPUT VOLTAGE PULSES

VINPUT_D D 0 PULSE(0 5 12u 50n 50n 10u 20u)
VINPUT_LOAD LOAD 0 PULSE(0 5 12u 50n 50n 20u 40u)


* 3) GENERATED CIRCUIT

EWIRE_1 Q 0 REG 0 1
XREG_INIT_2 tmp0 0 INIT __REG_dinit_0_1 VDD 0 MUX2
XDFF_REG_0_3 __REG_dinit_0_1 REG CLK VDD 0 DFF
.ic V(REG)=0
XMUX_4 REG D LOAD tmp0 VDD 0 MUX2


* Output loads

CLOAD_Q Q 0 10f
RLOAD_Q Q 0 100Meg


* 4) SIMULATION COMMAND

.options reltol=0.01 abstol=1n vntol=1m method=gear gshunt=1e-12 cshunt=1f
.tran 0 120u 0 100n uic
.save V(D) V(LOAD) V(Q) V(CLK) V(INIT)


* 5) TRANSISTOR MODELS

* Conservative long-channel dimensions are used with these Level-1 models.
.model NMOS NMOS (LEVEL=1 VTO=0.7 KP=120u LAMBDA=0.02)
.model PMOS PMOS (LEVEL=1 VTO=-0.7 KP=60u LAMBDA=0.02)


* 6) TRANSISTOR-LEVEL STANDARD-CELL LIBRARY

* Inverter
* Pin order: IN OUT VDD VSS
.subckt INV IN OUT VDD VSS
MP1 OUT IN VDD VDD PMOS W=80u L=4u
MN1 OUT IN VSS VSS NMOS W=40u L=4u
.ends INV


* Two-input NAND. Series NMOS devices are widened.
* Pin order: A B Y VDD VSS
.subckt NAND2 A B Y VDD VSS
MP1 Y A VDD VDD PMOS W=80u L=4u
MP2 Y B VDD VDD PMOS W=80u L=4u
MN1 Y A NINT VSS NMOS W=80u L=4u
MN2 NINT B VSS VSS NMOS W=80u L=4u
.ends NAND2


* AND = NAND + inverter
* Pin order: A B Y VDD VSS
.subckt AND2 A B Y VDD VSS
XNAND A B N_NAND VDD VSS NAND2
XINV N_NAND Y VDD VSS INV
.ends AND2


* Two-input NOR. Series PMOS devices are widened.
* Pin order: A B Y VDD VSS
.subckt NOR2 A B Y VDD VSS
MP1 NPU A VDD VDD PMOS W=160u L=4u
MP2 Y B NPU VDD PMOS W=160u L=4u
MN1 Y A VSS VSS NMOS W=40u L=4u
MN2 Y B VSS VSS NMOS W=40u L=4u
.ends NOR2


* OR = NOR + inverter
* Pin order: A B Y VDD VSS
.subckt OR2 A B Y VDD VSS
XNOR A B N_NOR VDD VSS NOR2
XINV N_NOR Y VDD VSS INV
.ends OR2


* XOR from four NAND gates
* Pin order: A B Y VDD VSS
.subckt XOR2 A B Y VDD VSS
XN1 A B N1 VDD VSS NAND2
XN2 A N1 N2 VDD VSS NAND2
XN3 B N1 N3 VDD VSS NAND2
XN4 N2 N3 Y VDD VSS NAND2
.ends XOR2


* XNOR = XOR + inverter
* Pin order: A B Y VDD VSS
.subckt XNOR2 A B Y VDD VSS
XXOR A B N_XOR VDD VSS XOR2
XINV N_XOR Y VDD VSS INV
.ends XNOR2


* 2:1 multiplexer
* Y=A when S=0; Y=B when S=1
* Pin order: A B S Y VDD VSS
.subckt MUX2 A B S Y VDD VSS
XINV_S S S_B VDD VSS INV
XAND_A A S_B N_A VDD VSS AND2
XAND_B B S N_B VDD VSS AND2
XOR_OUT N_A N_B Y VDD VSS OR2
.ends MUX2


* Full adder
* Pin order: A B CIN SUM COUT VDD VSS
.subckt FULLADDER A B CIN SUM COUT VDD VSS
XXOR1 A B P VDD VSS XOR2
XXOR2 P CIN SUM VDD VSS XOR2
XAND1 A B C1 VDD VSS AND2
XAND2 P CIN C2 VDD VSS AND2
XOR1 C1 C2 COUT VDD VSS OR2
.ends FULLADDER


* Active-high transmission-gate D latch.
* ENB must be the complement of EN.
* Pin order: D Q EN ENB VDD VSS
.subckt DLATCH_TG D Q EN ENB VDD VSS
* Input path active while EN=1.
MIN NSTORE EN D VSS NMOS W=40u L=4u
MIP NSTORE ENB D VDD PMOS W=80u L=4u

* Two inverters restore full logic levels.
XINV1 NSTORE NMID VDD VSS INV
XINV2 NMID Q VDD VSS INV

* Feedback path active while EN=0.
MFN NSTORE ENB Q VSS NMOS W=40u L=4u
MFP NSTORE EN Q VDD PMOS W=80u L=4u

* Small physical storage and numerical-convergence aids.
CSTORE NSTORE VSS 5f
CMID NMID VSS 5f
RQ Q VSS 1T
.ends DLATCH_TG


* Positive-edge-triggered master/slave D flip-flop.
* Master is transparent while CLK=0; slave is transparent while CLK=1.
* Pin order: D Q CLK VDD VSS
.subckt DFF D Q CLK VDD VSS
XINV_CLK CLK CLKB VDD VSS INV
XMASTER D QM CLKB CLK VDD VSS DLATCH_TG
XSLAVE QM Q CLK CLKB VDD VSS DLATCH_TG
CMASTER QM VSS 5f
.ends DFF

.end
