* ltspice_half_adder_demo.cir
* A complete LTspice simulation deck: no schematic drawing required.
* Open this file and run LTspice
* Then plot: V(A), V(B), V(SUM), V(CARRY)
* 1) POWER SUPPLY

VDD_SOURCE VDD 0 5

* 2) VOLATGE PULSES
VA A 0 PULSE(0 5 0 1n 1n 10u 20u)
VB B 0 PULSE(0 5 0 1n 1n 20u 40u)


* 3) HALF ADDER CIRCUIT


XSUM   A B SUM   VDD 0 XOR2
XCARRY A B CARRY VDD 0 AND2

* Output loads 
CSUM   SUM   0 10f
CCARRY CARRY 0 10f
RSUM   SUM   0 100Meg
RCARRY CARRY 0 100Meg

* 4) SIMULATION COMMAND
* Run a transient simulation from 0 to 80 microseconds.
.tran 0 80u 0 5n

* Save these node voltages for the waveform viewer.
.save V(A) V(B) V(SUM) V(CARRY)

* 5) TRANSISTOR MODELS

.model NMOS NMOS (LEVEL=1 VTO=0.7 KP=120u LAMBDA=0.02)
.model PMOS PMOS (LEVEL=1 VTO=-0.7 KP=60u LAMBDA=0.02)


* 6) TRANSISTOR-LEVEL GATE LIBRARY


* Inverter
* Pin order: IN OUT VDD VSS
.subckt INV IN OUT VDD VSS
MP1 OUT IN VDD VDD PMOS W=4u L=180n
MN1 OUT IN VSS VSS NMOS W=2u L=180n
.ends INV

* NAND gate
* Pin order: A B Y VDD VSS
.subckt NAND2 A B Y VDD VSS
MP1 Y A VDD VDD PMOS W=4u L=180n
MP2 Y B VDD VDD PMOS W=4u L=180n
MN1 Y A NINT VSS NMOS W=2u L=180n
MN2 NINT B VSS VSS NMOS W=2u L=180n
.ends NAND2

* AND gate = NAND + inverter
* Pin order: A B Y VDD VSS
.subckt AND2 A B Y VDD VSS
XNAND A B N_NAND VDD VSS NAND2
XINV  N_NAND Y VDD VSS INV
.ends AND2

* XOR gate built from four NAND gates
* Pin order: A B Y VDD VSS
.subckt XOR2 A B Y VDD VSS
XN1 A  B  N1 VDD VSS NAND2
XN2 A  N1 N2 VDD VSS NAND2
XN3 B  N1 N3 VDD VSS NAND2
XN4 N2 N3 Y  VDD VSS NAND2
.ends XOR2

.end
